US05486466
A solution of 6.27 g of 2,2,2-trichloroethyl 3,5-dihydroxy-2,6-dimethylbenzoate in 15 ml of acetic anhydride and 0.3 ml of pyridine was heated under reflux for 3 hours. The solution was cooled and the solvent removed under reduced pressure. The residue was dissolved in 20 ml of ethyl acetate and crystallized by the addition of 120 ml of n-hexane to yield 2,2,2-trichloroethyl 3,5-diacetoxy-2,6-dimethylbenzoate as white crystals with mp 127°-128° C.

reactant | 2,2,2-trichloroethyl 3,5-dihydroxy-2,6-dimethylbenzoate | 6.27 g | OC=1C(=C(C(=O)OCC(Cl)(Cl)Cl)C(=C(C1)O)C)C | C11H11Cl3O4
solvent | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
product | 2,2,2-trichloroethyl 3,5-diacetoxy-2,6-dimethylbenzoate | C(C)(=O)OC=1C(=C(C(=O)OCC(Cl)(Cl)Cl)C(=C(C1)OC(C)=O)C)C | C15H15Cl3O6
